US07932282B2
A mixture of 1-cyclopentyl-3-methyl-2-oxo-4-imidazolidinecarboxylic acid (39 mg, 0.184 mmol), N-ethylmorpholine (0.094 ml, 0.735 mmol), 1-hydroxybenzotriazole hydrate (33.8 mg, 0.220 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (42.3 mg, 0.220 mmol) in dichloromethane (9 ml) was stirred at room temperature for 10 minutes. A solution of [1-(2,4-dichlorophenyl)methyl]amine (32.3 mg, 0.184 mmol) in dichloromethane (1 ml) was added and the reaction mixture was stirred at room temperature for 72 hours. The reaction mixture was diluted with dichloromethane (10 ml) and the mixture was washed with saturated sodium hydrogen carbonate solution (10 ml) and brine (10 ml), dried and evaporated. The residue was purified by mass-directed automated HPLC. The residue was triturated with ether and the resulting solid was collected and dried to give 1-cyclopentyl-N-[(2,4-dichlorophenyl)methyl]-3-methyl-2-oxo-4-imidazolidinecarboxamide (42 mg, 62%). LCMS [M+H]+=370, retention time=2.28 minutes.

reactant | 1-cyclopentyl-3-methyl-2-oxo-4-imidazolidinecarboxylic acid | 0.184 mmol, 39 mg | C1(CCCC1)N1C(N(C(C1)C(=O)O)C)=O | C10H16N2O3
reactant | N-ethylmorpholine | 0.735 mmol, 0.094 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.220 mmol, 33.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.220 mmol, 42.3 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | [1-(2,4-dichlorophenyl)methyl]amine | 0.184 mmol, 32.3 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-cyclopentyl-N-[(2,4-dichlorophenyl)methyl]-3-methyl-2-oxo-4-imidazolidinecarboxamide | 42 mg, 62% | C1(CCCC1)N1C(N(C(C1)C(=O)NCC1=C(C=C(C=C1)Cl)Cl)C)=O | C17H21Cl2N3O2
